US09056874B2
(±)-2-((5-Ethyl-7-methyl-3-(2,2,2-trifluoro-1-hydroxyethyl)-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of 2-((5-ethyl-7-methyl-3-(2,2,2-trifluoroacetyl)-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile (60 mg, 0.114 mmol) in MeOH (10 mL) was added portionwise NaBH4 (21.6 mg, 0.572 mmol). The mixture was stirred at room temperature for 3 h, and then for 16 h at 60° C. The reaction mixture was diluted with H2O. The layers were separated and the aqueous layer was extracted with CH2Cl2. The combined organic phase was washed with H2O and brine, dried over Na2SO4, filtered and concentrated. The resulting residue was purified by silica gel flash column chromatography [CH2Cl2/(2M NH3 in MeOH)=94/6, isocratic] to give the title compound. 1H NMR (400 MHz, ACETONITRILE-d3 with about 5 μL TFA) δ ppm 9.50 (br. s., 1H), 7.83 (s, 1H), 7.54 (d, J=8.30 Hz, 1H), 7.47 (d, J=8.30 Hz, 1H), 7.42 (br. s., 1H), 6.95 (s, 1H), 5.56 (q, J=7.28 Hz, 1H), 4.78 (d, J=17.40 Hz, 1H), 4.64 (d, J=17.43 Hz, 1H), 2.74 (q, J=7.45 Hz, 2H), 2.45 (s, 3H), 1.12 (t, J=7.52 Hz, 3H). HRMS calcd. for C22H19F3N4O (M+H)+ 413.1584. found 413.1583.

reactant | 2-((5-ethyl-7-methyl-3-(2,2,2-trifluoroacetyl)-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.114 mmol, 60 mg | C(C)C=1C(=C2C(=CNC2=C(C1)C)C(C(F)(F)F)=O)CC1=NC2=C(N1)C=CC(=C2)C#N | C22H17F3N4O
reactant | NaBH4 | 0.572 mmol, 21.6 mg | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | H2O | O | H2O
product | (±)-2-((5-Ethyl-7-methyl-3-(2,2,2-trifluoro-1-hydroxyethyl)-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | C(C)C=1C(=C2C(=CNC2=C(C1)C)C(C(F)(F)F)O)CC1=NC2=C(N1)C=CC(=C2)C#N | C22H19F3N4O
